US06936608B2
To 3-(3,5-difluoropyridin-2-yl)-4-fluorophenylamine was added 1,4-dioxane (5 ml) and 48% aqueous hydrogen bromide (15 ml). The solution was cooled to −10° C., and a solution of sodium nitrite (0.252 g) in water (1 ml) was added dropwise with stirring to maintain an internal temperature below −5° C. The mixture was then stirred for a further 1 h at 0 to −5° C., then a solution of copper(I) bromide (1.283 g) in 48% aqueous hydrogen bromide (5 ml) was added slowly with stirring to maintain a reaction temperature below 10° C. The mixture was then stirred at 10° C. for 1 h, room temperature for a further hour, and then heated at 35° C. for 0.5 h. The reaction mixture was then cooled in an ice bath and 4 N aqueous sodium hydroxide (41 ml) was added slowly with stirring, followed by 30% aqueous ammonia (15 ml). The resulting mixture was extracted with ethyl acetate. The organic extracts were evaporated and the residue subjected to chromatography (silica gel, 10% Et2O/isohexane) to afford 2-(5-bromo-2-fluorophenyl)-3,5-difluoropyridine (0.48 g) as a colourless solid: MS (ES+) m/z 288, 290 [M+H]+.

reactant | 3-(3,5-difluoropyridin-2-yl)-4-fluorophenylamine | FC=1C(=NC=C(C1)F)C=1C=C(C=CC1F)N | C11H7F3N2
reactant | sodium nitrite | 0.252 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 4 N, 41 ml | [OH-].[Na+]
reactant | ammonia | 15 ml | N | H3N
reactant | hydrogen bromide | 5 ml | Br | BrH
reactant | hydrogen bromide | 15 ml | Br | BrH
solvent | water | 1 ml | O | H2O
catalyst | copper(I) bromide | 1.283 g | [Cu]Br
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-(5-bromo-2-fluorophenyl)-3,5-difluoropyridine | 0.48 g | BrC=1C=CC(=C(C1)C1=NC=C(C=C1F)F)F | C11H5BrF3N
